US04747875
Synthesis of 3-(4-diethylamino-2-n-hexyloxyphenyl)-3-(1-ethyl-2-methylindol-3-yl)-4-azaphthalide
Into 200 ml of acetic anhydride, 15.4 g of (1-ethyl-2-methylindol-3-yl) (3-carboxypyridin-2-yl) ketone and 13.7 g of 1-n-hexyloxy-3-diethylaminobenzene were added, and the resultant mixture was stirred for 3 hours to 60° to 65° C. After cooling the reaction mixture to room temperature, the cooled reaction mixture was treated by the same manner as in Synthetic Example 1 and as a result, 18.9 of the objective compound of the melting point of 154° to 156° C. as pale blue crystals was obtained. The elementary analytical data of the product were as follows.

reactant | (1-ethyl-2-methylindol-3-yl) (3-carboxypyridin-2-yl) ketone | 15.4 g | C(=O)(O)C=1C(=NC=CC1)C(=O)C1=C(N(C2=CC=CC=C12)CC)C | C18H16N2O3
reactant | 1-n-hexyloxy-3-diethylaminobenzene | 13.7 g | C(CCCCC)OC1=CC(=CC=C1)N(CC)CC | C16H27NO
solvent | acetic anhydride | 200 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 3-(4-diethylamino-2-n-hexyloxyphenyl)-3-(1-ethyl-2-methylindol-3-yl)-4-azaphthalide | C(C)N(C1=CC(=C(C=C1)C1(OC(=O)C2=CC=CN=C12)C1=C(N(C2=CC=CC=C12)CC)C)OCCCCCC)CC | C34H41N3O3
